US07910592B2
Step B: (5-tert-butyl-2-methoxyphenyl)boronic acid
To a solution of 4-tert-butyl-2-iodo-1-methoxybenzene (0.164 g, 0.56 mmol) in dry THF (5 mL) at −78° C., n-butyl lithium (0.27 mL, 0.68 mmol, 2.5 M) was added. The solution was stirred at −78° C. for 30 min. Trimethyl borate (0.19 mL, 1.70 mmol) was added. The solution was stirred at −78° C. for 3 h. The reaction was quenched with saturated aqueous NH4Cl. The aqueous layer was extracted with EtOAc (3×15 mL). The combined EtOAc layers were dried over Na2SO4. The residue was used without further purification after evaporation of the solvent.

reactant | 4-tert-butyl-2-iodo-1-methoxybenzene | 0.56 mmol, 0.164 g | C(C)(C)(C)C1=CC(=C(C=C1)OC)I | C11H15IO
reactant | n-butyl lithium | 0.68 mmol, 2.5 M, 0.27 mL | C(CCC)[Li]
reactant | Trimethyl borate | 1.70 mmol, 0.19 mL | B(OC)(OC)OC | C3H9BO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (5-tert-butyl-2-methoxyphenyl)boronic acid | C(C)(C)(C)C=1C=CC(=C(C1)B(O)O)OC | C11H17BO3
